Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
- Exploratory laparotomy, resection of hepatic flexure, and 
right colostomy ___ (___)

 
History of Present Illness:
___ presenting to ___ as transferred from OSH s/p MVC. On 
arrival the patient had AMS and could not provide any history. 
Per EMS and OSH records the patient was driving a truck while 
shooting up heroin and struck a tree. At OSH, underwent imaging 
that showed non-displaced sacral fracture, L5 transverse process 
fracture and abdominal free air. He was transferred to ___ for 
trauma evaluation, and taken to the OR emergently for Ex-lap. 
Postoperatively, he was transferred to the trauma ICU for close 
monitoring.
 
Past Medical History:
None
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Admission Physical Exam
VS - T: 97.8 HR: 106 BP: 132/79 RR: 20 100% on PSV
General: Intubated and sedated
HEENT: PERRL, NCAT
Neck: Ecchymosis over left neck, supple
CV: Mild tachycardia, regular rhythm
Lungs: CTAB
Abdomen: Soft, colostomy pink without any output
GU: Foley in place
Ext: Warm, well perfused
Neuro: Moving all extremities, localizes pain
Skin: No rash
 
Pertinent Results:
___ 06:15PM   GLUCOSE-131* UREA N-27* CREAT-1.2 SODIUM-145 
POTASSIUM-3.5 CHLORIDE-107 TOTAL CO2-24 ANION GAP-18
___ 06:15PM   CALCIUM-8.1* PHOSPHATE-4.4 MAGNESIUM-1.5*
___ 06:15PM   WBC-2.8*# RBC-3.11*# HGB-9.6*# HCT-30.0*# 
MCV-97# MCH-30.9 MCHC-32.0 RDW-12.9 RDWSD-45.3
___ 06:15PM   PLT SMR-LOW PLT COUNT-87*#
___ 06:15PM   ___ PTT-43.4* ___
___ 01:21PM   COMMENTS-GREEN TOP
___ 01:21PM   LACTATE-2.9*
___ 01:06PM URINE  HOURS-RANDOM
___ 01:06PM URINE  UCG-NEGATIVE
___ 01:06PM URINE  bnzodzpn-POS barbitrt-NEG opiates-POS 
cocaine-POS amphetmn-POS oxycodn-NEG mthdone-NEG
___ 01:06PM URINE  COLOR-Amber APPEAR-Clear SP ___
___ 01:06PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-40 BILIRUBIN-SM UROBILNGN-4* PH-6.5 LEUK-NEG
___ 01:06PM URINE  RBC-126* WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 01:06PM URINE  HYALINE-19*
___ 01:06PM URINE  CA OXAL-MOD
___ 01:06PM URINE  MUCOUS-RARE
___ 01:00PM   GLUCOSE-129* UREA N-27* CREAT-1.1 SODIUM-142 
POTASSIUM-3.7 CHLORIDE-104 TOTAL CO2-20* ANION GAP-22*
___ 01:00PM   estGFR-Using this
___ 01:00PM   ALT(SGPT)-61* AST(SGOT)-81* CK(CPK)-918* ALK 
PHOS-122 TOT BILI-1.2
___ 01:00PM   LIPASE-13
___ 01:00PM   ALBUMIN-4.2
___ 01:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:00PM   WBC-8.2 RBC-5.96 HGB-18.3* HCT-53.9* MCV-90 
MCH-30.7 MCHC-34.0 RDW-12.7 RDWSD-41.2
___ 01:00PM   NEUTS-84* BANDS-5 LYMPHS-7* MONOS-4* EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-7.30* AbsLymp-0.57* 
AbsMono-0.33 AbsEos-0.00* AbsBaso-0.00*
___ 01:00PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 01:00PM   PLT SMR-NORMAL PLT COUNT-207
___ 01:00PM   ___ PTT-32.4 ___
 
Brief Hospital Course:
___ presenting to ___ as transferred from OSH s/p MVC. On 
arrival the patient had AMS and could not provide any history. 
Per EMS and OSH records the patient was driving a truck while 
shooting up heroin and struck a tree. At OSH, underwent imaging 
that showed non-displaced sacral fracture, L5 transverse process 
fracture and abdominal free air secondary to an ascending colon 
perforation. He was transferred to ___ for trauma evaluation, 
and taken to the OR emergently for Ex-lap. Postoperatively, he 
was transferred to the trauma ICU for close monitoring. His ICU 
course is summarized below with transitional issues consistent 
of  a) postoperative fevers, seconadry to a feculent peritonitis 
and GNRs bacteremia treated with Zosyn. b) intermittent 
agitation secondary to withdrawal symptims in setting of chronic 
heroin use.  Per APS and psychiatry, he was started on methadone 
10TID, Haldol 2.5 q2H prn for agitation, added a basal rate of 
.05 to dPCA, in addition to resumed his home psychiatric meds. 
The patient was extubated onPD#1,  advanced diet to clears, and 
transferred to the surgical ward for further management. His 
hospital course is summarized below
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion Dose is Unknown  PO BID 
2. Lorazepam Dose is Unknown  PO QHS 
3. Gabapentin 300 mg PO TID 
4. MethylPHENIDATE (Ritalin) 20 mg PO DAILY 
5. QUEtiapine Fumarate 25 mg PO Frequency is Unknown 
6. Venlafaxine XR 225 mg PO Frequency is Unknown 

 
Discharge Medications:
1. Venlafaxine XR 225 mg PO DAILY 
2. QUEtiapine Fumarate 25 mg PO QHS 
3. Gabapentin 400 mg PO TID 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
___ will receive a 1 week supply. Please call the Surgery Clinic 
to make an appointment for refills 
5. MethylPHENIDATE (Ritalin) 20 mg PO DAILY 
6. Morphine SR (MS ___ 60 mg PO Q12H 
Taper:
60mg BID x 3 days
45mg BID x 3 days
30mg BID x 3 days
15mg BID x 3 days
15mg QD x 3 days 
7. Wheelchair
Wheelchair

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Traumatic injury, colonic perforation, scapular fracture, sacral 
fracture, L5 transverse process fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

___ were admitted to ___ and 
underwent an exploratory laparotomy, resection of
hepatic flexure, and right colostomy. ___ are recovering well 
and are now ready for discharge. Please follow the instructions 
below to continue your recovery:

Monitoring Ostomy output/ Prevention of Dehydration:
*Keep well hydrated.
*Replace fluid loss from ostomy daily.
*Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
*Try to maintain ostomy output between 1000mL to 1500mL per day. 

*If Ostomy output >1 liter, take 4mg of Imodium, repeat 2mg with 
each episode of loose stool. Do not exceed 16mg/24 hours.

OSTOMY DISCHARGE INSTRUCTIONS:

Patient D/C instructions:
 
___ have a new colostomy. The most common complication from a 
new colostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your colostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. If 
___ find that your output has become too much or too little, 
please call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
colostomy output. Keep yourself well hydrated, if ___ notice 
your colostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new colostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.
 
Please monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own. 
 
 
Currently your colostomy is allowing the surgery in your large 
intestine to heal, which does take some time. ___ will come back 
to the hospital for reversal of this colostomy when decided by 
Dr. ___ will follow-up in the clinic, and the 
surgeon will decide when will be the best time for your second 
surgery. Until this time there is healthy intestine that is 
still functioning as it normally would and it will produce mucus 
and some may leak or ___ may feel as though ___ need to have a 
bowel movement and ___ may sit on the toilet and empty this 
mucus, it is normal. 
 
 
Rehab D/C instructions:
 
To the Rehab:
Thank ___ for participating in the care of this patient.  This 
patient has had multiple teaching sessions with both the 
Wound/Ostomy nurses and with the staff nurses and should have a 
good idea of how to care for their own ostomy.  They have also 
been given several items that will assist them in their own 
care, such as instruction sheets, ostomy supplies, and ostomy 
output measuring tools.  However, we would like to stress a few 
important points to assist ___ in the care of this patient.

Bowel Function:  
Ø  It is important to encourage the patient to monitor their 
bowel function closely every day.  The patient should continue 
to record their colostomy output (as much as physically 
possible) and the amount of fluid they have taken in, just as 
they were taught in the hospital.  A urinal or _x0093_hat_x0094_ should be 
used to record their ostomy output daily.  
o   The patient has been taught to use a daily measurement chart 
to record their I&O_x0092_s.  This chart should be continued to be 
used at least until their follow-up appointment. If their ostomy 
output is less than 500 ml or greater than 1200 ml of liquid 
stool in a day, it is very important to call the doctor_x0092_s office 
with this information. 
o   Continue to reinforce to the patient that the major risk 
with an colostomy is dehydration related to fluid loses. Daily 
fluid intake is ___ glasses of fluids, including electrolyte 
enhanced beverages.  In the hot weather, encourage them to take 
in increased amounts of fluid and closely measure 
their colostomy output.  
o   Watch for signs and symptoms of dehydration including: dry 
mouth or tongue, decrease in urination, urine darker in color, 
dizzy when he/she stands, cramps in his/her abdomen or legs, 
dizziness, increased thirst, or weakness. 
Stoma Care:
Ø  It is also important to monitor the appearance of the stoma. 
The tissue of the stoma should be moist, pink or red in color. 
o   If the stoma has color changes from pink / red to dark 
purplish /blue in color, becomes swollen, or a large amount of 
continuous bleeding into the pouch, and or at the Mucocutaneous 
Junction (Stomal Incision). this is not normal. Call the 
patient_x0092_s doctor_x0092_s office for assistance.  
 If ___ or the patient has any questions regarding the care of 
the patient_x0092_s ostomy, please refer to the instructions provided 
to the patient by the wound/ostomy nurses. 
___ the patient develops the following bowel symptoms please call 
the surgeon_x0092_s office or go to the nearest emergency room if 
severe: increasing abdominal distension and cramps, nausea, 
vomiting, inability to tolerate food or liquids, decrease 
in ostomy output, or have no output from ostomy for ___ hours

Please call the Acute Care Surgery Clinic if ___ develop fevers, 
chills, nausea, vomiting, decreased or no ostomy output, or 
other concerns. The phone number is ___.

 
Followup Instructions:
___